US05118697
Preparation of N-[2,6 bis(1-methylethyl)phenyl]-2-oxo-3-phenyl-3-(2-pyridinyl)cyclohexanecarboxamide
The title compound was prepared from 2-phenyl-2-(2-pyridyl)-cyclohexanone (4.50 g, 0.017 mol, prepared from the alkylation of 2-phenylcyclohexanone with 2-chloropyridine and sodium hydride), 2,6-diisopropyl-phenyl isocyanate (3.60 g, 0.017 mol), and lithium diisopropylamide (0.017 mol) using the procedure described in Example 1.

reactant | 2-phenyl-2-(2-pyridyl)-cyclohexanone | C1(=CC=CC=C1)C1(C(CCCC1)=O)C1=NC=CC=C1 | C17H17NO
reactant | 2-phenylcyclohexanone | C1(=CC=CC=C1)C1C(CCCC1)=O | C12H14O
reactant | 2-chloropyridine | ClC1=NC=CC=C1 | C5H4ClN
reactant | sodium hydride | [H-].[Na+]
reactant | 2,6-diisopropyl-phenyl isocyanate | 0.017 mol, 3.60 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)N=C=O | C13H17NO
reactant | lithium diisopropylamide | 0.017 mol | C(C)(C)[N-]C(C)C.[Li+]
product | N-[2,6 bis(1-methylethyl)phenyl]-2-oxo-3-phenyl-3-(2-pyridinyl)cyclohexanecarboxamide | CC(C)C1=C(C(=CC=C1)C(C)C)NC(=O)C1C(C(CCC1)(C1=NC=CC=C1)C1=CC=CC=C1)=O | C30H34N2O2
